US09107898B2
Preparation of (Z)-2-Hydroxy-11-(3-methylaminopropylidene)-6,11-dihydrodibenzo[b,e]oxepin
A mixture of 2-methoxy-11-(3-methylaminopropyl)-6,11-dihydrodibenzo[b,e]oxepin (0.005 mol) with glacial acetic acid (0.2 ml) and hydriodic acid (0.2 ml, 57%) is stirred and heated for 5 hr at 90° C. The product is then extracted and purified by pouring into ice water (25 mL), made alkaline with sodium hydroxide (2N) and extracted with ether (2×10 mL). The aqueous layer is then adjusted to pH 6.8 with hydrochloric acid (6N). The mixture is then brought to pH 7 by the addition of sodium bicarbonate solution (5%) and extracted with chloroform (2×10 mL). The extract is dried over anhydrous sodium sulfate and evaporated in vacuo to give a yellowish solid. The crude reaction product is purified by preparative TLC (chloroform/toluene/methanol/ammonia, 4:3:2:1, v/v).

reactant | 2-methoxy-11-(3-methylaminopropyl)-6,11-dihydrodibenzo[b,e]oxepin | 0.005 mol | COC1=CC2=C(OCC3=C(C2CCCNC)C=CC=C3)C=C1 | C19H23NO2
reactant | hydriodic acid | 0.2 ml | I | HI
solvent | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
product | (Z)-2-Hydroxy-11-(3-methylaminopropylidene)-6,11-dihydrodibenzo[b,e]oxepin | OC1=CC\2=C(OCC3=C(/C2=C/CCNC)C=CC=C3)C=C1 | C18H19NO2
